US07122545B2
0.09 g 2-Methoxy-1-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-ethanone in 5 ml tetrahydrofurane were reacted with 0.2 ml lithiumaluminium hydride solution (1 M in tetrahydrofurane) over night at room temperature. 5 ml ethylacetate was added followed by 5 ml water at 0–5° C. Extraction with ethylacetate and chromatography on silicagel with dichloromethane/methanol 96:4 yielded 0.047 g (53%) 6-(2-methoxy-ethyl)-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine as yellow solid; MS (ISP): m/e=444 (M+H+).

reactant | 2-Methoxy-1-[2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl]-ethanone | 0.09 g | COCC(=O)N1CCC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C22H27N5O4S
reactant | lithiumaluminium hydride | 1 M, 0.2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethylacetate | 5 ml | C(C)OC(C)=O | C4H8O2
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 6-(2-methoxy-ethyl)-2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine | 0.047 g, 53% | COCCN1CCC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C22H29N5O3S
